US07250410B2
5-chloro-7,8-dimethoxy-1-methyl-1,3-dihydro-1,4-benzodiazepin-2-one, XVIIIaa.
Heat at 125° C. in a sealed tube for 3Y4 hour a solution of 100 mg (0.40 mmol) of 7,8-dimethoxy-1-methyl-3,4-dihydro-1H-1,4-benzodiazepine-2,5-dione (XVIIaa), 280 μl of dimethylaniline, 800 μl of POCl3, in 10 ml of anhydrous CHCl3. Allow to cool to room temperature. Add 3 g of silica and 5 ml of CH2Cl2. Add at 0° C., 1 ml of triethylamine.

reactant | 7,8-dimethoxy-1-methyl-3,4-dihydro-1H-1,4-benzodiazepine-2,5-dione | 0.40 mmol, 100 mg | COC=1C(=CC2=C(C(NCC(N2C)=O)=O)C1)OC | C12H14N2O4
reactant | dimethylaniline | 280 μl | CN(C1=CC=CC=C1)C | C8H11N
reactant | POCl3 | 800 μl | O=P(Cl)(Cl)Cl | Cl3OP
reactant | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
solvent | CHCl3 | 10 ml | C(Cl)(Cl)Cl | CHCl3
solvent | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
product | 5-chloro-7,8-dimethoxy-1-methyl-1,3-dihydro-1,4-benzodiazepin-2-one | ClC1=NCC(N(C2=C1C=C(C(=C2)OC)OC)C)=O | C12H13ClN2O3
